US08124600B2
Following general procedure GP-H, (R)-1-methyl-3-[(quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate was converted to (S)-2-methyl-7-(quinuclidin-3-yl]-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, which was immediately treated with hydrochloric acid following general procedure GP-I to give (R)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt: 1H NMR (500 MHz, DMSO-d6) δ 10.20 (s, 1H), 7.76 (d, J=8.0 Hz, 1H), 7.53 (t, J=7.0 Hz, 1H), 7.40 (d, J=6.5 Hz, 1H), 5.27 (d, J=17.0 Hz, 1H), 5.15 (d, J=16.5 Hz, 1H), 4.77 (t, J=9.0 Hz, 1H), 4.08 (s, 3H), 3.72-3.69 (m, 1H), 3.58-3.48 (m, 2H), 3.40-3.28 (m, 2H), 3.22-3.18 (m, 1H), 2.46-2.42 (m, 1H), 2.28-2.14 (m, 1H), 2.08-1.84 (m, 3H); MS (ESI+) m/z 297 (M+H); HPLC 98.7% (AUC), tR 13.39 min.

reactant | (R)-1-methyl-3-[(quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate | CN1N=C(C=2C(=CC=CC12)C(=O)[O-])CN[C@H]1CN2CCC1CC2
reactant | (S)-2-methyl-7-(quinuclidin-3-yl]-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one | CN1N=C2C3=C1C=NC=C3C([C@@H](C2)C2CN3CCC2CC3)=O | C17H20N4O
reactant | hydrochloric acid | Cl | ClH
product | (R)-2-methyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt | Cl.CN1N=C2C3=C1C=NC=C3C([C@H](C2)C2CN3CCC2CC3)=O | InChI=1S/C17H20N4O.ClH/c1-20-15-8-18-7-12-16(15)14(19-20)6-11(17(12)22)13-9-21-4-2-10(13)3-5-21;/h7-8,10-11,13H,2-6,9H2,1H3;1H/t11-,13?;/m1./s1
